US08058299B2
(S)-3-(4-nitro-phenylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester was deprotected with trifluoroacetic acid according to known procedures. After concentration, the amine trifluoroacetate salt was treated with ethyl chloroformate (1 equiv.) and triethylamine (3 equiv.) in methylene chloride to afford (S)-3-(4-nitro-phenylamino)-pyrrolidine-1-carboxylic acid ethyl ester. LCMS calcd for C13H17N3O4 (m/e) 279.3, obsd 280.1 (M+H).

reactant | (S)-3-(4-nitro-phenylamino)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H](CC1)NC1=CC=C(C=C1)[N+](=O)[O-] | C15H21N3O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl chloroformate | 1 equiv. | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 3 equiv. | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (S)-3-(4-nitro-phenylamino)-pyrrolidine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1C[C@H](CC1)NC1=CC=C(C=C1)[N+](=O)[O-] | C13H17N3O4
